US04086242
Preparation of 4-Methoxy-1-cyclohexyl-1H-benzotriazole
A slurry of 1.5 g of 4-chloro-1-cyclohexylbenzotriazole, 15 g of sodium methoxide, 10 g of cuprous iodide in 50 ml of 2,4,6-trimethyl pyridine (collidine) and 10 ml of methanol was heated at the reflux temperature for 26 hours. The reaction was cooled and poured into 150 ml of 10% hydrochloric acid. The product was extracted with ethyl ether and on evaporation of the solvent, 0.5 g of an oil was obtained which solidified on standing. The product had a melting point of 133°-134°.

reactant | 4-chloro-1-cyclohexylbenzotriazole | 1.5 g | ClC1=CC=CC=2N(N=NC21)C2CCCCC2 | C12H14ClN3
reactant | sodium methoxide | 15 g | C[O-].[Na+]
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | 2,4,6-trimethyl pyridine | 50 ml | CC1=NC(=CC(=C1)C)C | C8H11N
solvent | methanol | 10 ml | CO | CH4O
product | 4-Methoxy-1-cyclohexyl-1H-benzotriazole | 0.5 g | COC1=CC=CC=2N(N=NC21)C2CCCCC2 | C13H17N3O
